US07893093B2
Synthesis of N-(1-cyanocyclopropyl)-3-(2-trifluoromethylphenylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)-propionamide (compound 35)
2-(Trifluoromethyl)benzyl bromide (0.50 mmol) was dissolved in dioxane (3 mL) and a 0.16 M stock solution of 3-mercapto-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-propionic acid (4.7 mL, 0.75 mmol) in 1.0 M aqueous sodium hydroxide/0.032 M tris(2-carboxyethyl)phosphine hydrochloride was added. After stirring overnight, the reaction mixture was concentrated to half the volume and then diluted with water and washed with heptane. Ethyl acetate (5 mL) was added and the two phase mixture was placed in an ice/water bath and the pH was adjusted to 3 with 3.0 M hydrochloric acid. The aqueous phase was extracted with EtOAc and the combined organic extracts were washed with brine, dried over MgSO4, and concentrated. The residue was dissolved in DMF (2 mL) and 1-aminocyclopropanecarbonitrile hydrochloride (64 mg, 0.54 mmol), DIPEA (260 μL, 1.5 mmol), HATU (191 mg, 0.50 mmol) were added and the reaction mixture was stirred overnight. After concentrating the residue was dissolved in EtOAc and washed with 1.0 M KHSO4, saturated NaHCO3, and brine and dried over anhydrous MgSO4. Solvent was removed and the residue was dissolved in acetonitrile (3 mL) and a 0.50 M aqueous solution of Oxone™ (1.5 mL, 0.75 mmol) was added. After stirring overnight, the reaction mixture was diluted with water and extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous MgSO4 and concentrated. The residue was purified by flash chromatography on silica gel to give the title compound (55 mg) as a white solid mixture of diastereomers in 80% de (1S,2R)>(1R,2R). (compound 35), LC-MS: 552 (M+1), 551 (M−1), 574 (M+23), 1H-NMR (DMSO): 0.80 (m, 1H), 1.05 (m, 1H), 1.38 (m, 2H), 3.38 (m, 1H), 3.68 (m, 2H), 3.80 (m, 1H), 4.40 (m, 1H), 4.88 (q, 2H), 7.25 (t, 2H), 7.47 (dd, 2H), 7.65 (m, 2H), 7.75 (m, 1H), 7.82 (d, 1H), 9.10 (s, 1H).

reactant | 2-(Trifluoromethyl)benzyl bromide | 0.50 mmol | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | 3-mercapto-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-propionic acid | 0.75 mmol, 4.7 mL | SC[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F | C11H11F4NO2S
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.54 mmol, 64 mg | Cl.NC1(CC1)C#N
reactant | DIPEA | 1.5 mmol, 260 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.50 mmol, 191 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(1-cyanocyclopropyl)-3-(2-trifluoromethylphenylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)-propionamide | 55 mg | C(#N)C1(CC1)NC([C@H](CS(=O)(=O)CC1=C(C=CC=C1)C(F)(F)F)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C23H20F7N3O3S
